US08491868B2
To a solution of 4-(fluorophenyl)piperazine (100 mg, 0.56 mmol) and diisopropylethylamine (106 μL, 0.61 mmol) in ACN (2 mL) was added 1H-pyrazole-1-carboximidamide hydrochloride (89 mg, 0.61 mmol). The reaction stirred at room temperature overnight. A precipitate formed, which was collected via filtration and washed with ACN to obtain 4-(4-fluorophenyl)piperazine-1-carboximidamide as a white solid (119 mg, 97% yield). 1H NMR. (300 MHz, DMSO-d6): δ 7.77 (br s, 3H), 7.10-6.97 (m, 4H), 3.60 (dd, 4H, J=5.3, 4.7 Hz), 3.14 (dd, 4H, J=5.4, 4.7 Hz); 13C NMR (75.5 MHz, DMSO-d6): δ 157.9 (154.8), 156.3, 147.2, 118.0, 115.5 (115.2), 48.3, 44.7; 19F NMR (282.4 MHz, DMSO-d6): δ−124.70−124.78 (m, 1F); HRMS calcd for C11H15FN4: 223.13535 found 223.1353.

reactant | 4-(fluorophenyl)piperazine | 0.56 mmol, 100 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | diisopropylethylamine | 0.61 mmol, 106 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboximidamide hydrochloride | 0.61 mmol, 89 mg | Cl.N1(N=CC=C1)C(N)=N
solvent | ACN | 2 mL | C(C)#N | C2H3N
product | 4-(4-fluorophenyl)piperazine-1-carboximidamide | 119 mg, 97% yield | FC1=CC=C(C=C1)N1CCN(CC1)C(N)=N | C11H15FN4
